US08604032B2
To a solution of a given 6-chloro-9H-purine (A-1) (1.29 mol, 1 eq) and TsOH (0.02 mol, 0.015 eq) in ethyl acetate (1000 mL), 3,4-dihydro-2H-pyran (1.94 mol, 1.5 eq) is added and the resulting mixture is stirred at reflux for 2 h. The reaction mixture is allowed to cool to RT, aqueous Na2CO3 solution (3%, 500 mL) is added and the resulting mixture is stirred for 10 min. The organic layer is separated, washed with water (500 mL×2) and brine (500 mL), dried over anhydrous Na2SO4, and filtered. The filtrate is concentrated in vacuo. The product is dissolved in ethyl acetate (50 mL), and then n-heptane (500 mL) is added. The resulting mixture is stirred at RT for 1 h. The precipitate is collected by filtration, rinsed with heptane (100 mL) and dried in vacuo to afford the product 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (A-2) as a yellowish solid.

reactant | 6-chloro-9H-purine | 1.29 mol, 1 eq | ClC1=C2N=CNC2=NC=N1 | C5H3ClN4
reactant | TsOH | 0.02 mol, 0.015 eq | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 1.94 mol, 1.5 eq | O1CCCC=C1 | C5H8O
reactant | Na2CO3 | 500 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
